US05175157
3-[(N-(3-(3-Methyl-phenoxy)-propyl)-piperidin-3-yl)-methyl]-7,8-methylendioxy-1,3,4, 5-tetrahydro-2H-3-benzazepin-2-one-hydrochloride
Prepared from 3-[(piperidin-3-yl)-methyl]-7,8-methylenedioxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-one and 3-(3-methylphenoxy)-propylchloride analogously to Example 1.

reactant | 3-[(piperidin-3-yl)-methyl]-7,8-methylenedioxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-one | N1CC(CCC1)CN1CCC2=C(CC1=O)C=C1C(=C2)OCO1 | C17H22N2O3
reactant | 3-(3-methylphenoxy)-propylchloride | CC=1C=C(OCCCCl)C=CC1 | C10H13ClO
product | 3-[(N-(3-(3-Methyl-phenoxy)-propyl)-piperidin-3-yl)-methyl]-7,8-methylendioxy-1,3,4, 5-tetrahydro-2H-3-benzazepin-2-one-hydrochloride | Cl.CC=1C=C(OCCCN2CC(CCC2)CN2CCC3=C(CC2=O)C=C2C(=C3)OCO2)C=CC1 | InChI=1S/C27H34N2O4.ClH/c1-20-5-2-7-24(13-20)31-12-4-10-28-9-3-6-21(17-28)18-29-11-8-22-14-25-26(33-19-32-25)15-23(22)16-27(29)30;/h2,5,7,13-15,21H,3-4,6,8-12,16-19H2,1H3;1H
